US05866560
A solution of 1.25 g of sodium borohydride in 90 ml of ethanol and 18 ml of water is added in drops to a solution of 4.58 g of 17-acetoxy-7α-(5-acetoxypentyl)-3-benzyloxy-estra-1,3,5(10),14,16-pentaene in 26.8 ml of tetrahydrofuran and 161 ml of ethanol at room temperature, and the mixture is stirred for 1 hour. The reaction mixture is mixed with 4 ml of glacial acetic acid, concentrated by evaporation, and the residue is taken up in ethyl acetate. The organic phase is washed with sodium bicarbonate, dried on sodium sulfate and concentrated by evaporation. The residue is chromatographed on silica gel with hexane/ethyl acetate. 2.16 g of 7α-(5-acetoxypentyl)-3-benzyloxy-estra-1,3,5(10),14-tetraen-17β-ol is obtained as foam.

reactant | sodium borohydride | 1.25 g | [BH4-].[Na+]
reactant | 17-acetoxy-7α-(5-acetoxypentyl)-3-benzyloxy-estra-1,3,5(10),14,16-pentaene | 4.58 g | C(C)(=O)OC=1[C@]2(C)C(=CC1)[C@@H]1[C@@H](CC=3C=C(C=CC3[C@H]1CC2)OCC2=CC=CC=C2)CCCCCOC(C)=O | C34H40O5
reactant | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 90 ml | C(C)O | C2H6O
solvent | water | 18 ml | O | H2O
solvent | tetrahydrofuran | 26.8 ml | O1CCCC1 | C4H8O
solvent | ethanol | 161 ml | C(C)O | C2H6O
product | 7α-(5-acetoxypentyl)-3-benzyloxy-estra-1,3,5(10),14-tetraen-17β-ol | 2.16 g | C(C)(=O)OCCCCC[C@H]1[C@H]2C3=CC[C@@H]([C@@]3(C)CC[C@@H]2C=2C=CC(=CC2C1)OCC1=CC=CC=C1)O | C32H40O4
